US06531503B1
5-Bromobenzofuran-2-carboxylic Acid Dibenzylamide
A solution of 50 ml of toluene and 7.9 g of dibenzylamine are added dropwise with stirring at 50-60° C. in the course of 10 min. to 5.2 g of 5-bromobenzofuran-2-carbonyl chloride in 100 ml of toluene. A colourless solid is obtained. After dropwise addition is complete, the mixture is additionally stirred at 100-110° C. for a further 3 hours. After cooling to 10° C., the solid product (dibenzylammonium chloride) is filtered off with suction. The filtrate is then treated with a mixture of 150 ml of water and 10 g of sodium carbonate and thoroughly shaken. The organic phase is separated off, washed again with 100 ml of water, dried using sodium sulfate and filtered. The, filtrate is concentrated on a Rotavapor in vacuo to a residue (residue: 9.5 g). After recrystallization from 100 ml of methanol, 6.5 g of product (yield 77%) remain after isolation.

reactant | dibenzylamine | 7.9 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 5-bromobenzofuran-2-carbonyl chloride | BrC=1C=CC2=C(C=C(O2)C(=O)Cl)C1 | C9H4BrClO2
reactant | methanol | 100 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromobenzofuran-2-carboxylic Acid Dibenzylamide | 6.5 g, yield 77% | C(C1=CC=CC=C1)N(C(=O)C=1OC2=C(C1)C=C(C=C2)Br)CC2=CC=CC=C2 | C23H18BrNO2
